US07825253B2
N5-(1H-Indol-4-ylmethyl)-N2-(2-trifluoromethoxy-benzyl)-quinoline-2,5-diamine
The title compound, MS: m/e=463.0 (M+H+), was prepared from 5-nitro-2-chloroquinoline, 2-(trifluoromethoxy)benzylamine and 4-formylindole as described in example 26.

reactant | 5-nitro-2-chloroquinoline | [N+](=O)([O-])C1=C2C=CC(=NC2=CC=C1)Cl | C9H5ClN2O2
reactant | 2-(trifluoromethoxy)benzylamine | FC(OC1=C(CN)C=CC=C1)(F)F | C8H8F3NO
reactant | 4-formylindole | C(=O)C1=C2C=CNC2=CC=C1 | C9H7NO
product | N5-(1H-Indol-4-ylmethyl)-N2-(2-trifluoromethoxy-benzyl)-quinoline-2,5-diamine | N1C=CC2=C(C=CC=C12)CNC=1C=2C=CC(=NC2C=CC1)NCC1=C(C=CC=C1)OC(F)(F)F | C26H21F3N4O
